Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
loss of consciousness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o F with no remarkable PMHx who presents from ___, 
reporting multiple episodes of syncope. Patient reports that 
first episode of syncope began in ___ with the last 
episode occurring four days ago. She has experienced 10 episodes 
since ___. Each episode is the same in character. 

Prior to LOC, she reports feeling chest pain and palpitations 
associated with a strange olfactory sensation. She denies 
lightheadedness, flushing, or tunnel vision prior to the event. 
As soon as she notes these symptoms, with assistance, she lowers 
herself to the ground and has never hit her head. She reports 
being surrounded by people for each episode. She reports LOC 
lasting for seconds to minutes and she is always confused 
immediately after the event. Confusion lasts for about ___ 
minutes. She denies tongue biting, urinary or fecal incontinence 
after loss of consciousness. She denies any prior seizure or 
neurologic history. 

In the ED, initial VS were: T 97.2 HR 65 BP 154/79 RR 14 O2Sat 
100%RA
Exam notable for: normal gen med, normal neuro - per ED dash
EKG: NSR, no concerning STE/STD or TWI  
Labs showed: normal CBC, normal electrolytes, normal troponin, 
unremarkable UA  
Imaging showed: CXR with low lung volumes with lower lobe 
atelectasis. Non-contrast head CT with no intracranial 
abnormality
Consults: Neurology: ___ no significant PMH p/w multiple 
stereotyped episodes concerning for seizures, temporal lobe in 
origin. exam non-focal. CT with a small cystic lesion in the 
right temporal lobe, ?___ ageing or neurocysticercosis, etc. she 
is visiting from ___, with no reliable follow up or 
insurance. Will set up for Neuro urgent care, where she should 
be seen for MRI/EEG, however, the patient should be aware that 
these will have to be paid at least partly out of pocket (advise 
case management involvement for the above). Please start keppra 
500mg BID 
Patient received: Keppra 500 mg x 1 dose  
Transfer VS were: HR 85, BP 136/72, RR 16, O2Sat 96%RA 

On arrival to the floor, she denies chest pain, palpitations, 
nausea, vomiting, shortness of breath, abdominal pain, dysuria, 
hematuria, abnormal bowel movements, blood in her stools, 
weakness, numbness, fevers, chills or weight loss.
 
Past Medical History:
None. No specific cardiac history or neurologic history
 
Social History:
___
Family History:
Denies any family history of seizures or cancer 
 
Physical Exam:
ADMISSION EXAM
===============================
VS: reviewed in OMR  
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, mild scleral 
injection bilaterally, MMM, no OP lesions  
NECK: supple, no LAD
HEART: RRR, S1/S2, ___ systolic murmur heard best at LUSB
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: mildly distended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, CN II-XII intact, ___ strength in all extremities, 
sensation grossly intact in all extremities
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

DISCHARGE EXAM
==============================
PHYSICAL EXAM:  
VS: ___ 0740 Temp: 97.5 PO BP: 117/72 HR: 68 RR: 18 O2 sat:
94% O2 delivery: Ra 
GENERAL: NAD, comfortable, sitting up in bed
HEENT: MMM, OP clear w/o erythema or swelling.
NECK: No JVP elevation.
HEART: RRR, normal S1/S2. ___ systolic murmur heard throughout
the precordium. Non-radiating. +S2 split No rubs or gallops.
LUNGS: CTAB
ABDOMEN: Obese abdomen, nontender in all quadrants, no
rebound/guarding.
EXTREMITIES: No cyanosis, clubbing, or edema.  
PULSES: 2+ radial pulses bilaterally.  
NEURO: A&Ox3, strength grossly intact in all extremities. DOWB 
intact.
SKIN: Warm and well perfused, no excoriations or lesions, no
rashes.  
 
Pertinent Results:
ADMISSION LABS
================================
___ 08:55AM BLOOD WBC-4.1 RBC-4.30 Hgb-12.5 Hct-37.9 MCV-88 
MCH-29.1 MCHC-33.0 RDW-14.1 RDWSD-45.2 Plt ___
___ 08:55AM BLOOD Neuts-57.1 ___ Monos-8.9 Eos-5.6 
Baso-0.7 Im ___ AbsNeut-2.36 AbsLymp-1.14* AbsMono-0.37 
AbsEos-0.23 AbsBaso-0.03
___ 06:40AM BLOOD ___ PTT-30.0 ___
___ 08:55AM BLOOD Glucose-103* UreaN-13 Creat-0.6 Na-145 
K-4.2 Cl-106 HCO3-25 AnGap-14
___ 08:55AM BLOOD cTropnT-<0.01
___ 06:40AM BLOOD CK-MB-3 cTropnT-<0.01
___ 06:40AM BLOOD %HbA1c-5.6 eAG-114
___ 06:40AM BLOOD Triglyc-122 HDL-54 CHOL/HD-4.1 
LDLcalc-141*
___:40AM BLOOD TSH-2.8
___ 08:55AM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG

RELEVANT STUDIES
================================
___ CT HEAD W/O CONTRAST: No acute intracranial 
abnormalities.

___ CXR PA/LATERAL:
Low lung volumes with lower lobe atelectasis.  However, 
superimposed infection in these regions cannot be excluded. 

___ MRI HEAD: 1. No acute intracranial findings.
2. Findings consistent with mild chronic small vessel ischemic 
changes.
3. 0.6 cm right scalp enhancing nodule, indeterminate.

MICRO RESULTS
================================
___ 10:51 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

DISCHARGE LABS
================================
___ 06:40AM BLOOD WBC-5.2 RBC-4.49 Hgb-13.0 Hct-39.6 MCV-88 
MCH-29.0 MCHC-32.8 RDW-14.1 RDWSD-45.7 Plt ___
___ 06:40AM BLOOD Glucose-100 UreaN-12 Creat-0.6 Na-143 
K-4.4 Cl-105 HCO3-22 AnGap-16
___ 06:40AM BLOOD Triglyc-122 HDL-54 CHOL/HD-4.1 
LDLcalc-141*
___ 06:40AM BLOOD TSH-2.8
___ 06:40AM BLOOD %HbA1c-5.6 eAG-114
___ 06:40AM BLOOD Calcium-9.2 Phos-3.8 Mg-2.0 Cholest-219*
___ 06:40AM BLOOD CK-MB-3 cTropnT-<0.___ y/o F with no remarkable PMHx who presents from ___, 
reporting multiple episodes of syncope since ___, 
admitted for syncope workup. 

# Syncope - Last episode of syncope occurred four days prior to 
admission and patient reports feeling well since then. Of note, 
CT head in ED was largely unremarkable other than small cystic 
lesion in the right temporal lobe that is present in both the 
coronal and axial reformats (not in radiology report, but 
mentioned by neurology). Patient without any remarkable PMHx and 
has no known structural cardiac/pulmonary history. EKG without 
arrhythmia or conduction disease. Her report of chest discomfort 
is isolated to just before her syncopal episodes, she does not 
describe any recurrent anginal type symptoms. Patient does not 
take any medications and denies illicits. No recent changes in 
appetite and denies nausea/vomiting/diarrhea with negative 
orthostatics so unlikely to be hypovolemic. Per neurology 
evaluation in ED, presentation raises possibility of temporal 
lobe epilepsy given stereotyped spells and olfactory sensation 
prior to events with likely post-ictal confusion. Patient was 
admitted to the medicine service and started on keppra per 
Neurology recommendation. Syncope work-up including EKG, 
telemetry, TTE, EEG unremarkable. Given concern for temporal 
lobe epilepsy, the decision was made to continue on keppra with 
plans for Neurology follow-up. 

Of note, the patient does not have insurance and is not a ___ 
citizen. She was provided 2 weeks of free keppra and has applied 
for Mass Health. We spoke to the patient and the daughter at 
length about the importance of Neurology follow-up either in the 
___ or in ___ within ___ weeks of discharge. They 
understand and will arrange for follow-up.

#Hyperlipidemia: Started on atorvastatin 20mg daily

Transitional Issues:
=====================
NEW MEDICATIONS:
Keppra 500mg BID
Atorvastatin 20mg daily

Other:
[ ] Patient admitted with syncope with concern for possible 
temporal lobe epilepsy discharged on Keppra per Neurology 
recommendation
[ ] Arrange for Neurology follow-up once insurance approved
[ ] TTE, EKG, telemetry, and MRI brain unremarkable
[ ] Started atorvastatin 20mg daily for hyperlipidemia
[ ] Discussed the need to avoid driving, swimming or operating 
heavy machinery given concern for epilepsy. This was discussed 
with family and the patient through use on a ___ 
interpreter

***Patient is not a ___ citizen and has no insurance. Social work 
was involved and the daughter has applied for ___ on the 
patient's behalf. We discussed the need to establish care with a 
PCP and ___ as soon as her insurance is approved. If the 
insurance takes ___, we discussed the need to seek care in 
___ in the interim to ensure there is proper management 
of her medications***
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Atorvastatin 20 mg PO QPM 
RX *atorvastatin 20 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0 
2.  LevETIRAcetam 500 mg PO BID 
RX *levetiracetam 500 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
SYNCOPE

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___

___ was a pleasure taking care of you at ___ 
___.

Why was I in the hospital?
  - You have been experiencing fainting spells since ___ 
and you were hospitalized to determine why this was happening.

What was done while I was in the hospital?
  - We monitored your heart for abnormal rhythms
  - We monitored your blood which didn't show any abnormalities
  - You underwent a scan of your head which did not show any 
abnormalities
  - You underwent an ultrasound of your heart which was normal
  - You were seen by the Neurology team and there is concern 
that your fainting spells are due to seizures and therefore you 
were started on a medication called keppra that helps protect 
against seizure activity

What should I do when I go home?
  - It is very important that you take your medications as 
prescribed
  - Please follow-up with ___ as scheduled 
below
  -Please ensure that you see a Neurology doctor either in the 
US or in ___ within ___ weeks of discharge
  - If you have additional fainting spells, chest pain, 
difficulty breathing, or fevers please seek medical care 
immediately or go to the emergency room for further management.

Best wishes, 
  Your ___ team
 
Followup Instructions:
___